US07915281B2
In the presence of triethylamine (0.50 mL, 3.4 mmol), 8-(ethoxymethyl)-5,6-dimethyl-7-prop-2-ynyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine (0.442 g, 1.55 mmol) was reacted with N-hydroxypyridine-3-carboximidoyl chloride generated from 3-pyridinecarboxyaldehyde oxime (prepared as described in Part A of Example 5, 0.38 g, 3.11 mmol) and N-chlorosuccinimide (0.42 g, 3.11 mmol) in THF (5 mL) using the method described in Part B of Example 5. After purification by flash chromatography (silica gel, elution with 95:5 dichloromethane/methanol) and trituration in diethyl ether, the product 8-(ethoxymethyl)-5,6-dimethyl-7-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine was obtained (0.171 g) as a white powder.

reactant | triethylamine | 3.4 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | 8-(ethoxymethyl)-5,6-dimethyl-7-prop-2-ynyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine | 1.55 mmol, 0.442 g | C(C)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CC#C | C14H16N6O
reactant | N-hydroxypyridine-3-carboximidoyl chloride | ON=C(C=1C=NC=CC1)Cl | C6H5ClN2O
reactant | N-chlorosuccinimide | 3.11 mmol, 0.42 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 8-(ethoxymethyl)-5,6-dimethyl-7-[(3-pyridin-3-ylisoxazol-5-yl)methyl]-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridine | C(C)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CC1=CC(=NO1)C=1C=NC=CC1 | C20H20N8O2
